US07220760B2
Cis-4-(acetyl-phenylamino)-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic Acid Benzyl Ester (Compound of Formula Cis-(1f))
To a solution of cis-2-methyl-4-phenylamino-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester (5.3 g), diisopropyl ethyl amine (2.73 g) in dioxane (31 ml), anhydride acetic (7.26 g) was added under stirring. The mixture was heated under reflux over night. After cooling, dichloromethane and an aqueous solution of potassium carbonate were added. The organic layer was separated, and then dried over sodium sulfate. Organic solvent was removed under reduce pressure to give the crude compound (18 g). The desired compound (3.8 g, 64% yield) was obtained after purification by flash chromatography on silica gel with cyclohexane/ethyl acetate (80/20) as eluent and then cyclohexane/ethyl acetate (50/50).

reactant | cis-2-methyl-4-phenylamino-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester | 5.3 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C2=CC=CC=C12)NC1=CC=CC=C1)C | C24H24N2O2
reactant | diisopropyl ethyl amine | 2.73 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 31 ml | O1CCOCC1 | C4H8O2
product | Cis-4-(acetyl-phenylamino)-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic Acid Benzyl Ester | 3.8 g, 64% yield | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=CC=C1)C(C)=O)C | C26H26N2O3
